US05624942
Synthesis of 4-methyl-2-(3-thienylmethyloxy)-6-(meta-trifluoromethylphenoxy)pyridine (I-10)
To a solution containing meta-trifluoromethylphenol (1.70 g, 0.0021×5.0 mol) and sodium hydride (0.42 g, (ca.60% in mineral oil), 0.0021×5.0 mol) in dimethylformamide, 2-chloro-4-methyl-6-(3-thienylmethyloxy)pyridine (0.5 g, 0.0021 mol) and CuI (0.20 g, 0.0021×0.5 mol) were successively added and the resultant solution was refluxed for about 5 hours.

reactant | meta-trifluoromethylphenol | 5.0 mol, 1.70 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | sodium hydride | 5.0 mol, 0.42 g | [H-].[Na+]
reactant | 2-chloro-4-methyl-6-(3-thienylmethyloxy)pyridine | 0.0021 mol, 0.5 g | ClC1=NC(=CC(=C1)C)OCC1=CSC=C1 | C11H10ClNOS
solvent | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | CuI | 0.5 mol, 0.20 g | [Cu]I
product | 4-methyl-2-(3-thienylmethyloxy)-6-(meta-trifluoromethylphenoxy)pyridine | CC1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)OCC1=CSC=C1 | C18H14F3NO2S
